US09447084B2
4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-methyl-N-[2-oxo-3-(2,2,2-trifluoroethyl)imidazolidin-1-yl]benzamide
Into a 25-mL round-bottom flask, was placed 1-amino-3-(2,2,2-trifluoroethyl)imidazolidin-2-one (90 mg, 0.49 mmol, 1.00 equiv), 4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-methylbenzoic acid (200 mg, 0.48 mmol, 0.97 equiv), EDCI (192 mg, 1.00 mmol, 2.04 equiv), HOBT (135 mg, 1.00 mmol, 2.03 equiv), triethylamine (303 mg, 2.99 mmol, 6.09 equiv), dichloromethane (10 mL). The resulting solution was stirred for 30 h at room temperature. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:1). This resulted in 39 mg (13%) of 4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-methyl-N-[2-oxo-3-(2,2,2-trifluoroethyl)imidazolidin-1-yl]benzamide as a white solid. (ES, m/z): 583 [M−H]−; 1H NMR (300 MHz, CDCl3) δ 7.89 (s, 1H), 7.43-7.62 (m, 6H), 4.06-4.12 (m, 1H), 3.54-3.89 (m, 7H), 2.47 (s, 3H).

reactant | 1-amino-3-(2,2,2-trifluoroethyl)imidazolidin-2-one | 0.49 mmol, 90 mg, 1.00 equiv | NN1C(N(CC1)CC(F)(F)F)=O | C5H8F3N3O
reactant | 4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-methylbenzoic acid | 0.48 mmol, 200 mg, 0.97 equiv | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)O)C=C1)C)C(F)(F)F | C18H12Cl2F3NO3
reactant | EDCI | 1.00 mmol, 192 mg, 2.04 equiv | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 1.00 mmol, 135 mg, 2.03 equiv | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 2.99 mmol, 303 mg, 6.09 equiv | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-methyl-N-[2-oxo-3-(2,2,2-trifluoroethyl)imidazolidin-1-yl]benzamide | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)NN2C(N(CC2)CC(F)(F)F)=O)C=C1)C)C(F)(F)F | C23H18Cl2F6N4O3
